US05852011
3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propylamine
Chlorambucil (0.30 g; 0.99 mmol) was suspended in 2 ml of acetone. The resultant mixture was stirred under a nitrogen gas atmosphere and ice-cooling, to which 0.17 ml (1.22 mmol; 1.2 equivalents) of triethylamine and 0.11 ml (1.22 mmol; 1.2 equivalents) of ethyl chloroformate were added successively. Twenty minutes later, a solution of 0.13 g (2.0 mmol; 2.0 equivalents) of sodium azide in 2 ml of water was added dropwise. The resulting mixture was stirred, as was, for 1 hour, to which ice was added to terminate the reaction. The thus-obtained mixture was extracted three times with 20 ml portions of benzene. The benzene layers were combined, dried over sodium sulfate and then heated under reflux for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was added with 9 ml of 8N hydrochloric acid, followed by heating for 15 minutes at 100° C. The resulting mixture was concentrated under reduced pressure and the residue was diluted with water. The thus-obtained mixture was adjusted to pH 12 with concentrated aqueous ammonia, followed by extraction with ethyl acetate. The extract was dried and concentrated, whereby 0.21 g of the title compound was obtained as a crude yellow oil of high viscosity. This reaction product was provided for use in the next reaction without purification.

reactant | Chlorambucil | 0.99 mmol, 0.30 g | C1=CC(=CC=C1CCCC(=O)O)N(CCCl)CCCl | C14H19Cl2NO2
reactant | triethylamine | 1.22 mmol, 0.17 ml, 1.2 equivalents | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.22 mmol, 0.11 ml, 1.2 equivalents | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 2.0 mmol, 0.13 g, 2.0 equivalents | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | water | 2 ml | O | H2O
product | 3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propylamine | 0.21 g | ClCCN(CCCl)C1=CC=C(C=C1)CCCN | C13H20Cl2N2
